US07238716B2
To a mixture of 2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]nicotinaldehyde (1.64 g), tetrahydrofuran (20 ml) and ethanol (20 mL) was added sodium borohydride (80 mg) at 0° C., and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the precipitated crystals were collected by filtration and recrystallized from ethyl acetate-isopropyl ether to give colorless needle crystals (1.50 g, 91%) of [2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]methanol. melting point: 136-137° C.

reactant | 2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]nicotinaldehyde | 1.64 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=C(C=O)C=CC=N1 | C21H17N3O5
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | sodium borohydride | 80 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | [2-[[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]-5-isoxazolyl]methoxy]-3-pyridyl]methanol | 1.50 g, 91% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC1=NC=CC=C1CO | C21H19N3O5
